US06951879B2
1.4 l of nitrobenzene were cooled in an ice bath and treated in succession at a maximum temperature of 6° C. with 492.6 g (3.656 mol) of aluminum chloride and 700 g (3.355 mol) of 4-trifluoromethyl-2-fluoro-benzoyl chloride in 350 ml of nitrobenzene. The mixture was stirred (15 min) and 427.5 g (3.388 mol) of 3-fluoroanisole were added slowly so that the temperature did not rise above 6° C. The solution was left to warm to room temperature, stirred 2 h at this temperature, poured on to ice-water (2.5 l) and extracted with methylene chloride. The organic phase was washed with water and concentrated. After crystallization from THF (1.2 l)/hexane (4.2 l), 237 g (24%) of (2-Fluoro-4-methoxy-phenyl)-(4-trifluoromethyl-phenyl)-methanone were obtained, MS: 298 (M).

reactant | aluminum chloride | 3.656 mol, 492.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-trifluoromethyl-2-fluoro-benzoyl chloride | 3.355 mol, 700 g | FC(C1=CC(=C(C(=O)Cl)C=C1)F)(F)F | C8H3ClF4O
reactant | 3-fluoroanisole | 3.388 mol, 427.5 g | FC=1C=C(C=CC1)OC | C7H7FO
solvent | nitrobenzene | 350 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 1.4 l | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (2-Fluoro-4-methoxy-phenyl)-(4-trifluoromethyl-phenyl)-methanone | 237 g, 24% | FC1=C(C=CC(=C1)OC)C(=O)C1=CC=C(C=C1)C(F)(F)F | C15H10F4O2
